US07989442B2
k. (−)-(cis)-N-(7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide
To a solution of (−)-(cis)-7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine (2.32 g, 6.09 mmol) in a mixture of methanol (80 mL) and triethylamine (5.1 mL, 36.3 mmol), ethyl trifluoroacetate (4.3 mL, 36.3 mmol) was added and the resulting mixture was stirred at ambient temperature for 2 h. Water (120 mL) was added and stirred for additional 10 min. The formed precipitate was filtered off to yield the title compound (2.74 g, 94%).

reactant | (−)-(cis)-7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 6.09 mmol, 2.32 g | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4N)C=CC(=C3)F)C=C1F | C17H15BrF2N2O
reactant | triethylamine | 36.3 mmol, 5.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 36.3 mmol, 4.3 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | Water | 120 mL | O | H2O
solvent | methanol | 80 mL | CO | CH4O
product | (−)-(cis)-N-(7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 2.74 g, 94% | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC(=C3)F)C=C1F | C19H14BrF5N2O2
